.title KiCad schematic
.include "edt01.sub"
.model __D1 D
.model __D2 D
XPWM_B1 Net-_V5-Pad1_ /g1 /g2 /g3 /g4 PWMbridge
V5 Net-_V5-Pad1_ 0 DC -0.5 
Vip1 /a Net-_Vip1-Pad2_ DC 0 
Vid1 Net-_Vid1-Pad1_ Net-_D1-A_ DC 0 
D1 Net-_D1-A_ /p __D1
XBDGE1 Net-_Vip1-Pad2_ /b Net-_Vid1-Pad1_ /r Net-_Vid2-Pad1_ xfmbdge Params: Np = 10 Ns = 20 C = 100u
Vid2 Net-_Vid2-Pad1_ Net-_D2-A_ DC 0 
L1 /p /o 1m
D2 Net-_D2-A_ /p __D2
C3 /o /r 100u
R3 /o /r 10
XxSW2 /a 0 /g4 power_sw
XxSW4 /b 0 /g2 power_sw
XxSW3 Net-_Vse1-Pad1_ /b /g1 power_sw
Vse1 Net-_Vse1-Pad1_ 0 DC 10 
XxSW1 Net-_Vse1-Pad1_ /a /g3 power_sw
.end
