.title KiCad schematic
.include "/Users/manindersingh/Documents/GitHub/ngspice/learnings/FeedForward_Control/edt01.sub"
.include "/Users/manindersingh/Documents/GitHub/ngspice/learnings/MPPT/edt01_mppt.sub"
.include "/Users/manindersingh/Documents/ngspice/learnings/Converters/buck_converter/edt01.sub"
.include "/Users/manindersingh/Documents/ngspice/learnings/pvsim/subckt_PV_symbol_simulation/pv.sub"
.model __D1 D
.save all
.probe alli
.probe p(D1)
.probe p(L1)
.probe p(C2)
.probe p(XxPWM1)
.probe p(Xfilt3)
.probe p(R1)
.probe p(C1)
.probe p(XSUMR1)
.probe p(Xtff1)
.probe p(Xmul1)
.probe p(Xfiltslow1)
.probe p(Vipv1)
.probe p(XxPV1)
.probe p(Xfiltfast1)
.probe p(XxSW1)
.probe p(Xgain1)
.probe p(XSUMR2)
.probe p(V1)
.probe p(V2)
D1 /o /p __D1
L1 /p 0 L
C2 /o 0 C
XxPWM1 /d /g PWMtri
Xfilt3 Net-_filt3-in_ /d filt_ord_I k=1 tau=1
R1 /o 0 R
C1 /t 0 C
XSUMR1 /pb /pd Net-_tff1-t_ sum
Xtff1 Net-_tff1-t_ /tog Net-_V2-Pad1_ 0 T_FF
Xmul1 /t Net-_Bsense1-N+_ Net-_filtfast1-in_ mul
Xfiltslow1 Net-_filtfast1-in_ /pb filt_ord_I k=1 tau=20ms
Vipv1 Net-_Vipv1-Pad1_ /t DC 0 
XxPV1 Net-_Vipv1-Pad1_ 0 PVSource
Bsense1 Net-_Bsense1-N+_ 0 v = i(Vipv1) 
Xfiltfast1 Net-_filtfast1-in_ /pd filt_ord_I k=1 tau=1ms
XxSW1 /t /p /g power_sw
Xgain1 /tog Net-_gain1-out_ gain k=2
XSUMR2 Net-_gain1-out_ Net-_V1-Pad1_ Net-_filt3-in_ sum
V1 Net-_V1-Pad1_ 0 DC 1 
V2 Net-_V2-Pad1_ 0 PWL( ) 
.end
