.title KiCad schematic

*========================================================
* Includes
*========================================================
.include "/Users/manindersingh/Documents/GitHub/ngspice/learnings/MPPT/edt01_mppt.sub"
.include "/Users/manindersingh/Documents/ngspice/learnings/pvsim/subckt_PV_symbol_simulation/pv.sub"

.save all


*========================================================
* Input Capacitor
*========================================================
C1 /t 0 100u

*========================================================
* Power Stage
*========================================================

* Power switch
XxSW1 /t /p /g power_sw

* Freewheel diode
D1 /p /o Def

* Buck inductor
L1 /p 0 10m

* Output capacitor
C2 /o 0 100u

* Load
R1 /o 0 100

*========================================================
* PV Source
*========================================================

* Current sensing source
Vipv1 Net-_Vipv1-Pad1_ /t DC 0

* Behavioral current sense
* IMPORTANT: negative sign for correct power polarity
Bsense1 Net-_Bsense1-N+_ 0 V=-I(Vipv1)

* PV model
XxPV1 Net-_Vipv1-Pad1_ 0 PVSource

*========================================================
* MPPT Power Calculation
*========================================================

* Power = Voltage × Current
Xmul1 /t Net-_Bsense1-N+_ Net-_filtfast1-in_ mul

* Fast filter
Xfiltfast1 Net-_filtfast1-in_ /pd filt_ord_I k=1 tau=1ms

* Slow filter
Xfiltslow1 Net-_filtfast1-in_ /pb filt_ord_I k=1 tau=10ms

*========================================================
* MPPT Decision Logic
*========================================================

* Compare filtered signals
XSUMR1 /pb /pd Net-_tff1-t_ sum

* Toggle flip flop
V2 Net-_V2-Pad1_ 0 PWL(0 1 1us 1 2us 0 1000ms 0)

Xtff1 Net-_tff1-t_ /tog Net-_V2-Pad1_ 0 T_FF

* Gain block
Xgain1 /tog Net-_gain1-out_ gain k=2

* Reference source
V1 Net-_V1-Pad1_ 0 DC 1

* Sum for PWM control
XSUMR2 Net-_gain1-out_ Net-_V1-Pad1_ Net-_filt3-in_ sum

* PWM compensation filter
Xfilt3 Net-_filt3-in_ /d filt_ord_I k=1 tau=1ms

* PWM generator
XxPWM1 /d /g PWMtri

.end