*title KiCad schematic - Buck Converter Closed Loop
.include "./edt01.sub"

.model __D1 D

C1     /C       0        100u
R1     /C       0        5
L1     /B       /C       10m
D1     0        /B       __D1
XxSW1  /A       /B       /PWM_o   power_sw
V3     /r       0        PULSE(5 6 0 0 0 5m 10m)
V1     /A       0        DC 12
XxPWM1 /c       /PWM_o   PWMtri fs=10000
XSUMR1 /r       /C       Net-_PID1-IN_  sum
XPID1  Net-_PID1-IN_  /c  PID  params: kp=1 ki=100 kd=0 lsat=-10 usat=10
.tran 0.1us 30ms
.print tran V(/A) V(/B) V(/C) V(/r) I(L1)
.end
