.title KiCad schematic
.include "/Users/manindersingh/Documents/GitHub/ngspice/learnings/FeedForward_Control/edt01.sub"
.model __D1 D
L1 /B /C 10m
C1 /C 0 100u
R1 /C 0 5
D1 0 /B __D1
XxSW1 /A /B /PWM_o power_sw
XxPWM1 /c2 /PWM_o PWMtri
V1 /A 0 DC 12 
XSUMR1 /r /C Net-_PID1-IN_ sum
V3 /r 0 PULSE( 5 6 0 0 0 5m 10m ) 
XPID1 Net-_PID1-IN_ /c1 PID
Xadd1 /c1 Net-_Vd1-Pad1_ /c2 add
Vd1 Net-_Vd1-Pad1_ 0 DC -0.05 
.end
