.title KiCad schematic
.include "edt01.sub"

.model __D1 D
C1 /C 0 100u
R1 /C 0 5
L1 /B /C 10m
D1 0 /B __D1
XxSW1 /A /B /PWM_o power_sw
V3 /r 0 PULSE( 5 6 0 0 0 5m 10m ) 
V1 /A 0 DC 12 
XxPWM1 /c /PWM_o PWMtri
XSUMR1 /r /C Net-_PID1-IN_ sum
XPID1 Net-_PID1-IN_ /c PID params: kp=1 ki=100 kd=0 lsat=-10 usat=10
.end
