.title KiCad schematic
.include "./edt01.sub"
.model __D1 D
Vc1 Net-_Vc1-Pad1_ 0 DC -0.5 
Vip1 /a Net-_Vip1-Pad2_ DC 0 
Vse1 /a 0 DC 15 
XxSW1 /q 0 Net-_xPWM1-Out_ power_sw
Vis1 /r Net-_Vis1-Pad2_ DC 0 
D1 /s Net-_D1-K_ __D1
Rs1 /o Net-_D1-K_ 0.001
Xfmer1 Net-_Vip1-Pad2_ /q Net-_Vis1-Pad2_ /s xfmer PARAMS: Np=10 Ns=20 C=100uF
R0 /o /r 10
C1 /o /r 10u
XxPWM1 Net-_Vc1-Pad1_ Net-_xPWM1-Out_ PWMtri fs=10000
.tran 0.1us 5ms
.print tran V(Net-_Vc1-Pad1_) V(Net-_xPWM1-Out_) V(/q) V(/s) I(Xfmer1)
.end
