.title KiCad schematic
.include edt01.sub
.model __D2 D
.model __D1 D
.model __D3 D
D2 Net-_D2-A_ /p __D2
L1 /p /o 10m
R1 /o /r 10
C1 /o /r 100u
D1 /r /p __D1
Vis1 /s Net-_D2-A_ DC 0 
Xfmfor1 /a /q /a Net-_D3-K_ /s /r xfmfor PARAMS: Np=10 Nd=10 Ns=20 C=150uF
Viq1 Net-_Viq1-Pad1_ 0 DC 0 
D3 Net-_D3-A_ Net-_D3-K_ __D3
Vid1 0 Net-_D3-A_ DC 0 
Vin1 /a 0 DC 15 
XxPWM1 Net-_V2-Pad1_ /g PWMtri
V2 Net-_V2-Pad1_ 0 DC -0.1 
XxSW1 /q Net-_Viq1-Pad1_ /g power_sw
.end
