.title KiCad schematic
.include "/Users/manindersingh/Documents/ngspice/learnings/Converters/Buck Converter/edt01.sub"
.include "/Users/manindersingh/Documents/ngspice/learnings/Converters/buck_converter/edt01.sub"
.include "/Users/manindersingh/Documents/ngspice/learnings/Forward_Converter/FWD_CONV_Lossy/edt01.sub"
.model __D1 D
.model __D2 D
.model __D3 D
Xfmer1 /a Net-_Vid1-Pad1_ /s /r xfmer
D1 /r /p __D1
Vis1 /s Net-_D2-A_ DC 0 
C1 /o /r 100u
R1 /o /r 10
D2 Net-_D2-A_ /p __D2
L1 /p /o 10m
D3 Net-_D3-A_ /a __D3
R2 Net-_D3-A_ Net-_R2-Pad2_ 800
Vid1 Net-_Vid1-Pad1_ Net-_R2-Pad2_ DC 0 
XxSW1 Net-_Vid1-Pad1_ Net-_Viq1-Pad1_ /g power_sw
V2 Net-_V2-Pad1_ 0 DC -0.1 
Vin1 /a 0 DC 15 
XxPWM1 Net-_V2-Pad1_ /g PWMtri
Viq1 Net-_Viq1-Pad1_ 0 DC 0 
.end
